US07105544B2
N-{3-[4-(3-{[(DIMETHYLAMINO)CARBONYL]AMINO}PHENYL)-1-PIPERIDINYL]PROPYL}-2,2-BIS(4-FLUOROPHENYL)ACETAMIDE
Example 139 was prepared from bis(4-fluorophenyl)acetic acid and N′-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-N,N-dimethylurea according to the procedures described in Scheme 9: ESMS m/e: 535.4 (M+H)+.

reactant | bis(4-fluorophenyl)acetic acid | FC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)F | C14H10F2O2
reactant | N′-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-N,N-dimethylurea | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(N(C)C)=O | C17H28N4O
product | N-{3-[4-(3-{[(DIMETHYLAMINO)CARBONYL]AMINO}PHENYL)-1-PIPERIDINYL]PROPYL}-2,2-BIS(4-FLUOROPHENYL)ACETAMIDE | CN(C(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O)C | C31H36F2N4O2
